US06288059B1
2-[3-(cyclohexylmethyl)-(5R)-(3,4-dichlorophenyl)-2-oxooxazolidin-5-yl]ethanol methanesulfonate
An alcohol derivative (930 mg, 91%) was prepared according to the procedures described in Example 12(d) using 2-[3-(cyclohexylmethyl)-(5R)-(3,4-dichlorophenyl)-2-oxooxazolidin-5-yl]ethanol triphenylmethylether (1.69 g, 2.75 mmol) and a solution of hydrogen chloride in dioxane (4N, 6.9 ml). The alcohol derivative (880 mg, 2.36 mmol) was dissolved in methylene chloride (18 ml), and triethylamine (0.50 ml, 3.55 mmol) and methanesulfonyl chloride (0.22 ml, 2.84 mmol) were added to the solution. The mixture was stirred at room temperature overnight. To the reaction mixture, methylene chloride was added, and this was washed with water and then with a saturated aqueous solution of sodium chloride. The organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by flash chromatography on a silica gel column using n-hexane/ethyl acetate=4/1−1/1 as an eluant to afford the title compound (1.03 g, 97%).

reactant | 2-[3-(cyclohexylmethyl)-(5R)-(3,4-dichlorophenyl)-2-oxooxazolidin-5-yl]ethanol triphenylmethylether | 2.75 mmol, 1.69 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)OCC[C@@H]1C(N(C(O1)=O)CC1CCCCC1)C1=CC(=C(C=C1)Cl)Cl | C37H37Cl2NO3
reactant | hydrogen chloride | Cl | ClH
reactant | triethylamine | 3.55 mmol, 0.50 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.84 mmol, 0.22 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dioxane | 4N, 6.9 ml | O1CCOCC1 | C4H8O2
solvent | methylene chloride | 18 ml | C(Cl)Cl | CH2Cl2
product | 2-[3-(cyclohexylmethyl)-(5R)-(3,4-dichlorophenyl)-2-oxooxazolidin-5-yl]ethanol methanesulfonate | 1.03 g, 97% | CS(=O)(=O)OCC[C@@H]1C(N(C(O1)=O)CC1CCCCC1)C1=CC(=C(C=C1)Cl)Cl | C19H25Cl2NO5S
